### ISSUE TITLE
disable rejection of `perm` simp lemmas, or override `perm` field for a simp lemma

### ISSUE THREAD

**Issue by semorrison** [leanprover/lean4#1743]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

The simplifier [identifies some simp lemmas as `perm`utation lemmas](https://github.com/leanprover/lean4/blob/master/src/Lean/Meta/Tactic/Simp/SimpTheorems.lean#L292) (if the lhs and rhs differ only by a permutation of variables), and then [rejects some rewrites](https://github.com/leanprover/lean4/blob/master/src/Lean/Meta/Tactic/Simp/Rewrite.lean#L73) by these lemmas.

This has undesirable effects, in particular when using simp lemmas with side conditions that independently prevent looping. It would be helpful to either be able to disable the check that rejects rewrites by `perm` lemmas, or on a per-lemma basis to override the `perm` field.

(This is a feature request, not a bug report.)

### Steps to Reproduce

```
class AddCommMonoid (α : Type _) extends Add α where
  add_assoc : ∀ a b c : α, a + b + c = a + (b + c) 
  add_comm : ∀ a b : α, a + b = b + a

open AddCommMonoid

variable [AddCommMonoid α]

theorem comm (f : Nat → Nat → α) (_h : i < j) : f a j + f b i = f b i + f a j :=
  add_comm _ _

theorem comm_assoc (f : Nat → Nat → α) (h : i < j) : 
    f a j + (f b i + x) = f b i + (f a j + x) := by
  rw [← add_assoc, comm _ h, add_assoc]
  
set_option trace.Meta.Tactic.simp.rewrite true

example (f : Nat → Nat → α) : f a 5 + f b 3 + f c 0 = f c 0 + f b 3 + f a 5 := by
  simp only [comm, comm_assoc, add_assoc] -- succeeds

example (f : Nat → Nat → α) : f a 5 + f b 3 + f 37 0 = f 37 0 + f b 3 + f a 5 := by
  simp only [comm, comm_assoc, add_assoc] -- fails
```

Note here the two examples are identical, except that I have replaced `c` with `37` in the second example.
The intention here is that `simp only [comm, comm_assoc, add_assoc]` should sort a sum of `f a i` terms according to the value of `i`.

**Expected behavior:**

Both examples to succeed. I'd be happy if I needed to add some annotation that tells `simp` that `comm` should not be considered a `perm` lemma (because of the side condition), or to specify a configuration object for `simp` that disables the `perm` check.

**Actual behavior:**

The first example succeeds, tracing:
```
[Meta.Tactic.simp.rewrite] @comm:1000:perm, f a 5 + f b 3 ==> f b 3 + f a 5 
[Meta.Tactic.simp.rewrite] @AddCommMonoid.add_assoc:1000, f b 3 + f a 5 + f c 0 ==> f b 3 + (f a 5 + f c 0) 
[Meta.Tactic.simp.rewrite] @comm:1000:perm, f a 5 + f c 0 ==> f c 0 + f a 5 
[Meta.Tactic.simp.rewrite] @comm_assoc:1000:perm, f b 3 + (f c 0 + f a 5) ==> f c 0 + (f b 3 + f a 5) 
[Meta.Tactic.simp.rewrite] @AddCommMonoid.add_assoc:1000, f c 0 + f b 3 + f a 5 ==> f c 0 + (f b 3 + f a 5) 
[Meta.Tactic.simp.rewrite] @eq_self:1000, f c 0 + (f b 3 + f a 5) = f c 0 + (f b 3 + f a 5) ==> True 
```

The second example fails with unsolved goals, tracing:
```
[Meta.Tactic.simp.rewrite] @comm:1000:perm, f a 5 + f b 3 ==> f b 3 + f a 5 
[Meta.Tactic.simp.rewrite] @AddCommMonoid.add_assoc:1000, f b 3 + f a 5 + f 37 0 ==> f b 3 + (f a 5 + f 37 0) 
[Meta.Tactic.simp.rewrite] @comm:1000:perm, perm rejected f a 5 + f 37 0 ==> f 37 0 + f a 5 
[Meta.Tactic.simp.rewrite] @AddCommMonoid.add_assoc:1000, f 37 0 + f b 3 + f a 5 ==> f 37 0 + (f b 3 + f a 5) 
```

### Versions

Lean (version 4.0.0-nightly-2022-10-12, commit aa845dee98e3, Release)

**Comment by semorrison** [comment]
I'll briefly summarise here Mario's response to this in a meeting today, and then close later if there's no further discussion.

This use case probably counts as mis-use of the simplifier, because it is using side conditions to control flow. One should imagine an alternate version of the simplifier, which instead of checking side conditions as they arose, collected them all and only checked them at the end. This version would loop in this example without the `perm` check. Probably one doesn't want to have to think about this difference in the specification of the simplifier's behavior.

Mario suggested as a possible alternative, relevant for the application I had in mind, a way of specifying a custom term order to the simplifier (i.e. to use at https://github.com/leanprover/lean4/blob/master/src/Lean/Meta/Tactic/Simp/Rewrite.lean#L73), as an alternative to the side conditions.

I still think it would be nice to have a hook to disable this term order check entirely, for people who want to play with fire, but I appreciate the reason to be hesitant. :-)

A separate issue that came up in this conversation was that this example relies on the simplifier using decidability to discharge side conditions, which is potentially extremely expensive, and will probably be turned off as the default behaviour in future.

**Comment by digama0** [comment]
> I still think it would be nice to have a hook to disable this term order check entirely, for people who want to play with fire, but I appreciate the reason to be hesitant. :-)

By the way, if the term order was a user function, then you could supply `fun _ _ => true` as the term order if you like to play with fire...

**Comment by semorrison** [comment]
I had a quick look at this possibility. Unfortunately one couldn't add a `termOrder : Expr → Expr → MetaM Bool` field to `Simp.Config` without a lot of rearranging, because that is defined in `src/Init/Meta.lean`, before `MetaM` is available.

**Comment by digama0** [comment]
Not `Simp.Config`, `Simp.Methods`
